US05763599
A solution of 2-(2-bromo-6-nitrophenyl)ethanol (500 mg, 2.03 mmol) and Et3N (206 mg, 2.03 mmol, dist. over KOH) in THF (5 ml, dist. over CaH2) was dropped into a solution, cooled to 0° C., of trichloromethyl chloroformate (442 mg, 2.23 mmol) in THF (5 ml, see above) for 10 min. It was stirred for 5 min while being cooled in an ice bath and for 1 h 45 min at room temperature. The mixture was filtered over Celite. Rewashing the filter cake with THF and removing the solvent and the excess reagent from the pooled filtrates by distillation at 30° C. in a high vacuum yielded 2-(2-bromo-6-nitrophenyl)ethoxycarbonyl chloride (625 mg, 99.8%) as a light brown oil.

reactant | 2-(2-bromo-6-nitrophenyl)ethanol | 2.03 mmol, 500 mg | BrC1=C(C(=CC=C1)[N+](=O)[O-])CCO | C8H8BrNO3
reactant | Et3N | 2.03 mmol, 206 mg | CCN(CC)CC | C6H15N
reactant | trichloromethyl chloroformate | 2.23 mmol, 442 mg | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-(2-bromo-6-nitrophenyl)ethoxycarbonyl chloride | 625 mg, 99.8% | BrC1=C(C(=CC=C1)[N+](=O)[O-])CCOC(=O)Cl | C9H7BrClNO4
